US07223765B2
5e, 6-Chloro-3-{3-[4-(2,3-dichlorophenyl)piperazin-1-yl]propyl}-1H-indole
from 1-(2,3-dichlorophenyl)piperazine and 6-chloro 3-(3-iodopropyl)-1H-indole. 1H NMR (CDCl3): 1.95 (t, 2H); 2.55 (t, 2H); 2.65 (b s, 4H); 2.80 (t, 2H); 3.10 (b s, 4H); 6.95–7.05 (m, 2H); 7.10 (d, 1H); 7.10–7.20 (m, 2H); 7.35 (s, 1H); 7.55 (d, 1H); 7.95 (b s, 1H). Ms m/z: 422 (MH+), 424.

reactant | 1-(2,3-dichlorophenyl)piperazine | ClC1=C(C=CC=C1Cl)N1CCNCC1 | C10H12Cl2N2
reactant | 6-chloro 3-(3-iodopropyl)-1H-indole | ClC1=CC=C2C(=CNC2=C1)CCCI | C11H11ClIN
product | 6-Chloro-3-{3-[4-(2,3-dichlorophenyl)piperazin-1-yl]propyl}-1H-indole | ClC1=CC=C2C(=CNC2=C1)CCCN1CCN(CC1)C1=C(C(=CC=C1)Cl)Cl | C21H22Cl3N3
